US04976773
2-(4-(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid 5-(2,4-dichlorophenoxy)-2-nitrophenyl ester:
5-(2,4-Dichlorophenoxy)-2-nitrophenol (0.8 g) and triethylamine (0.6 ml) were dissolved in dry tetrahydrofuran (10 ml), and the solution was stirred at room temperature for 2 hours, with an addition of a solution of 2-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid chloride (0.8 g), in dry tetrahydrofuran (10 ml). After completing the reaction, the solvent was distilled off under a reduced pressure and the residue was dissolved in methylene chloride (20 ml), followed by washing with 1N hydrochloric acid, water, a saturated aqueous sodium bicarbonate solution, water, and a saturated aqueous sodium chloride solution. The resultant reaction mixture was dried over anhydrous magnesium sulfate, ether was evaporated under a reduced pressure, and the resultant residue was subjected to silica gel medium pressure column chromatography for purification. Thus, the title compound (0.9 g) was obtained in the form of a colorless oily product.

reactant | 5-(2,4-Dichlorophenoxy)-2-nitrophenol | 0.8 g | ClC1=C(OC=2C=CC(=C(C2)O)[N+](=O)[O-])C=CC(=C1)Cl | C12H7Cl2NO4
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid chloride | 0.8 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)Cl)C)C=C1 | C15H10Cl2F3NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionic acid 5-(2,4-dichlorophenoxy)-2-nitrophenyl ester | 0.9 g | ClC1=C(OC=2C=CC(=C(C2)OC(C(C)OC2=CC=C(C=C2)OC2=NC=C(C=C2Cl)C(F)(F)F)=O)[N+](=O)[O-])C=CC(=C1)Cl | C27H16Cl3F3N2O7
